US05221673
4-(3',4',5'-Trimethoxyphenyl)-thioxomethylmorpholine
28.1 g (0.1 mole) of 4-(3',4',5'-trimethoxyphenyl)-oxo-methylmorpholine, 100 ml of pyridine and 22.3 g (0.1 mole) of phosphorus pentasulfide are reacted at the boiling point of the reaction mixture for 5 hours. Then the solvent is distilled off and the product is precipitated with water.

reactant | 4-(3',4',5'-trimethoxyphenyl)-oxo-methylmorpholine | 0.1 mole, 28.1 g | COC=1C=C(C=C(C1OC)OC)N1C(C(OCC1)=O)C | C14H19NO5
reactant | phosphorus pentasulfide | 0.1 mole, 22.3 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 4-(3',4',5'-Trimethoxyphenyl)-thioxomethylmorpholine | COC=1C=C(C=C(C1OC)OC)N1C(COCC1)C=S | C14H19NO4S
